US04743600
The Preparation of 5-(3-Aminopropoxy)-2-Methyl-1-(1-Piperidinylmethyl)Benzocyclobutene
Sodium azide (1.49 g) is added to a stirred solution of 5-(3-bromopropoxy)-2-methyl-1-(1-piperidinylmethyl)benzocyclobutene (7.3 g) dissolved in a mixture of ethanol/water (7.3 ml/73 ml). The reaction mixture is refluxed overnight, poured into water and extracted with ether. The organic extract is washed with sat'd aqueous NaCl, dried, filtered and evaporated in vacuo affording the desired product as an oil.

reactant | Sodium azide | 1.49 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-(3-bromopropoxy)-2-methyl-1-(1-piperidinylmethyl)benzocyclobutene | 7.3 g | BrCCCOC=1C=C2C(C(C2CN2CCCCC2)C)=CC1 | C18H26BrNO
reactant | water | O | H2O
solvent | ethanol water | 7.3 ml | C(C)O.O
product | 5-(3-Aminopropoxy)-2-Methyl-1-(1-Piperidinylmethyl)Benzocyclobutene | NCCCOC=1C=C2C(C(C2CN2CCCCC2)C)=CC1 | C18H28N2O
